US04968702
2-[1,1'-Biphenyl]-4-yl-3-(dimethylamino)-6-fluoro-4-quinolinecarboxylic acid
A 4 g portion of 3-amino-2-[1,1'biphenyl]-4-yl-6-fluoro-4-quinolinecarboxylic acid was dissolved in 250 ml of acetonitrile. To this was added 2.7 ml of 40% aqueous formaldehyde and the mixture was heated at 80° C. until solution was complete. A 2.1 g portion of sodium cyanoborohydride was added and the solution stirred at 20° C. for 8 hours. Glacial acetic acid was added to pH 6, then 0.69 g of sodium borohydride was added and stirring continued at 20° C. for 72 hours. The reaction mixture was poured into 1 liter of water and adjusted to pH 4 with glacial acetic acid. The solid was collected, washed with water, dried and then twice suspended in 200 ml of hot ethanol and filtered. The solid was collected, giving 2.5 g of the desired product as a yellow powder, mp 235°-239° C. (gas solution).

reactant | 3-amino-2-[1,1'biphenyl]-4-yl-6-fluoro-4-quinolinecarboxylic acid | NC=1C(=NC2=CC=C(C=C2C1C(=O)O)F)C1=CC=C(C=C1)C1=CC=CC=C1 | C22H15FN2O2
reactant | formaldehyde | 2.7 ml | C=O | CH2O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | sodium borohydride | 0.69 g | [BH4-].[Na+]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 1 liter | O | H2O
product | 2-[1,1'-Biphenyl]-4-yl-3-(dimethylamino)-6-fluoro-4-quinolinecarboxylic acid | 2.5 g | C1(=CC=C(C=C1)C1=NC2=CC=C(C=C2C(=C1N(C)C)C(=O)O)F)C1=CC=CC=C1 | C24H19FN2O2
